US05866568
4-Dimethylaminopyridine (0.1 g) was added to a solution of 2-chloropyridine-3-sulphonyl chloride (1.06 g), 2-amino-3-methoxy-5-methylpyrazine (0.695 g) and pyridine (0.424 ml) in dichloromethane (5 ml) and the mixture was stirred at ambient temperature for 18 hours. The solution was then transferred to a silica gel Mega Bond Elut column. Elution with 0-40% ethyl acetate/hexane gave 2-chloro-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (0.47 g) as an oil; 1H NMR (d6 -DMSO): 2.3 (s, 3 H), 3.9 (s, 3 H), 7.5 (s, 1 H), 7.65 (dd, 1 H), 8.45 (dd, 1 H), 8.7 (dd, 1 H); mass spectrum (+ve CI): 315 (M+H)+.

reactant | 2-chloropyridine-3-sulphonyl chloride | 1.06 g | ClC1=NC=CC=C1S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | 2-amino-3-methoxy-5-methylpyrazine | 0.695 g | NC1=NC=C(N=C1OC)C | C6H9N3O
reactant | pyridine | 0.424 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-Dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-chloro-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 0.47 g | ClC1=NC=CC=C1S(=O)(=O)NC1=NC=C(N=C1OC)C | C11H11ClN4O3S
